US07737136B2
Isobutyl isothiocyanate (3.35 mg, 0.03 mmol) was added to trans-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine (5 mg, 0.02 mmol) in 1 mL of THF. The resulting mixture was stirred at room temperature for 18 h. The mixture was evaporated under reduced pressure. Crystallisation from methanol gave trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-N′-(2-methylpropyl)thiourea (1 mg, 12%). Data: (m/z)=416 (M+H)+.

reactant | Isobutyl isothiocyanate | 0.03 mmol, 3.35 mg | C(C(C)C)N=C=S | C5H9NS
reactant | trans-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine | 0.02 mmol, 5 mg | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4N)C=CC=C3)C=C1 | C17H17ClN2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-N′-(2-methylpropyl)thiourea | 1 mg, 12% | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(=S)NCC(C)C)C=CC=C3)C=C1 | C22H26ClN3OS
